US07326799B2
Synthesis of (2S,3S)-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-amino-2-hydroxyheptanamide (Compound of the Formula VII)
To 30 ml of a methanol solution containing 1.45 g (5 mmol) of (2S,3S)-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-azido-2-hydroxyheptanamide was added 150 mg of 5% palladium carbon, and the resulting mixture was stirred under hydrogen atmosphere for 18 hours. Insoluble material was filtered off, and the filtrate was distilled under reduced pressure to obtain 1.18 g (Yield: 91%) of the title compound.

reactant | (2S,3S)-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-azido-2-hydroxyheptanamide | 5 mmol, 1.45 g | O[C@@H]1[C@H](CCCC1)NC([C@H]([C@H](CCCC)N=[N+]=[N-])O)=O | C13H24N4O3
catalyst | palladium carbon | 150 mg | [C].[Pd]
solvent | methanol | 30 ml | CO | CH4O
product | (2S,3S)-N-[(1S,2S)-2-hydroxycyclohexane-1-yl]-3-amino-2-hydroxyheptanamide | 1.18 g, Yield: 91% | O[C@@H]1[C@H](CCCC1)NC([C@H]([C@H](CCCC)N)O)=O | C13H26N2O3
